US08022223B2
N-(3-phenoxy-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-yl)-4-(piperidin-4-ylmethyl)thiazol-2-amine dihydrochloride
Added 4N HCl in dioxane (3.0 mL, 12.0 mmol) to a solution of tert-butyl 4-((2-(3-phenoxy-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-ylamino)thiazol-4-yl)methyl)piperidine-1-carboxylate (0.790 g, 1.25 mmol) in dichloromethane (4 mL) and methanol (4 mL). The reaction was stirred at ambient temperature for 3 hours. Concentrated, triturated with hexanes, filtered to afford the title compound (0.745 g, 98.5% yield) as a light yellow powder: 1H NMR (d-DMSO) δ 9.13 (m, 1H), 8.89 (m, 1H), 8.67 (d, 1H), 8.51 (d, 1H), 8.47 (s, 1H), 7.80 (d, 1H), 7.57 (s, 1H), 7.42 (t, 2H), 7.16-7.23 (m, 4H), 6.91 (s, 1H), 3.21 (m, 2H), 2.80 (m, 2H), 2.60 (d, 2H), 1.95 (m, 1H), 1.76 (m, 2H), 1.45 (m, 2H).

reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 12.0 mmol, 3.0 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-((2-(3-phenoxy-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-ylamino)thiazol-4-yl)methyl)piperidine-1-carboxylate | 1.25 mmol, 0.790 g | O(C1=CC=CC=C1)C=1C(=NC=C(C1)SC1=C2C(=NC=C1)C=CS2)NC=2SC=C(N2)CC2CCN(CC2)C(=O)OC(C)(C)C | C32H33N5O3S3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | methanol | 4 mL | CO | CH4O
product | N-(3-phenoxy-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-yl)-4-(piperidin-4-ylmethyl)thiazol-2-amine dihydrochloride | 0.745 g, 98.5% yield | Cl.Cl.O(C1=CC=CC=C1)C=1C(=NC=C(C1)SC1=C2C(=NC=C1)C=CS2)NC=2SC=C(N2)CC2CCNCC2 | InChI=1S/C27H25N5OS3.2ClH/c1-2-4-20(5-3-1)33-23-15-21(36-24-8-12-29-22-9-13-34-25(22)24)16-30-26(23)32-27-31-19(17-35-27)14-18-6-10-28-11-7-18;;/h1-5,8-9,12-13,15-18,28H,6-7,10-11,14H2,(H,30,31,32);2*1H
